US04818756
Preparation of 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-ethoxycarbonylamino-1,2-benzisothiazol-3(2H)one 1,1-dioxide
0.01 mol of 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-amino-1,2-benzisothiazol-3(2H)one 1,1-dioxide is dissolved in 30 ml of absolute pyridine and, via cooling in ice, 0.02 mol of ethyl chloroformate is added. The mixture is then allowed to reach room temperature and is stirred for 12 hours. The solvent is evaporated off, ice-water is added and the mixture is extracted by shaking several times with methylene chloride. Colourless crystals are obtained after evaporating off the solvent.

reactant | 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-amino-1,2-benzisothiazol-3(2H)one 1,1-dioxide | 0.01 mol | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=CC(=C2)N)(=O)=O | C19H24N6O3S
reactant | ethyl chloroformate | 0.02 mol | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-6-ethoxycarbonylamino-1,2-benzisothiazol-3(2H)one 1,1-dioxide | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=CC(=C2)NC(=O)OCC)(=O)=O | C22H28N6O5S
